US05710322
A solution of 12.4 g (50 mmol) of (S)-3,3,N-trimethyl-2-[(S)-1-phenylethylamino]-butyramide in 206 ml of methanol was hydrogenated in a 380 ml autoclave in the presence of 1.2 g of 5 percent Pd/C at 50° C. and under a pressure of 4 bar for 6 hours. After pressure release the catalyst was filtered off and the filtrate was evaporated to dryness. There were obtained 7.1 g (98.5%) of (S)-N-methyl-tert-leucinamide as white crystals, 99.2% e.e.

reactant | (S)-3,3,N-trimethyl-2-[(S)-1-phenylethylamino]-butyramide | 50 mmol, 12.4 g | CC([C@@H](C(=O)NC)N[C@@H](C)C1=CC=CC=C1)(C)C | C15H24N2O
solvent | methanol | 206 ml | CO | CH4O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | (S)-N-methyl-tert-leucinamide | 7.1 g, 98.5% | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
